US05189054
Scheme I, step f: 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole from above in methylene chloride (5 mL). Add trifluoracetic acid (3 mL) and stir for 5 hours. Concentrate the reaction in vacuo, dilute with ethyl acetate (100 mL), wash with saturated sodium carbonate, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound (650 mg).

reactant | 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | FC1=C(C(CCNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=CC=C1 | C25H25Cl2FN2O5
reactant | trifluoracetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 650 mg | FC1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C20H17Cl2FN2O3
